US08106033B2
(E)-2-(5-((2,4,6-Trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)acetic acid (15 g, 0.032 mol) is dissolved in ethanol (150 ml) and 1 N NaOH (1.28 g in 33 ml of water, 0.032 mol) is added, adjusted pH to 7.5-8.0 and stirred at room temperature for 1 h. The reaction is cooled to 0° C., and the precipitated solid is collected by filtration, washed with cold ethanol, and finally with hexane and dried under vacuum to give (E)-2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)acetic acid sodium salt (13 g, 84%).

reactant | (E)-2-(5-((2,4,6-Trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)acetic acid | 0.032 mol, 15 g | COC1=C(/C=C/S(=O)(=O)CC=2C=CC(=C(C2)NCC(=O)O)OC)C(=CC(=C1)OC)OC | C21H25NO8S
reactant | NaOH | 0.032 mol, 1 N, 33 ml, 1.28 g | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (E)-2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)acetic acid sodium salt | 13 g, 84% | [Na+].COC1=C(/C=C/S(=O)(=O)CC=2C=CC(=C(C2)NCC(=O)[O-])OC)C(=CC(=C1)OC)OC | InChI=1S/C21H25NO8S.Na/c1-27-15-10-19(29-3)16(20(11-15)30-4)7-8-31(25,26)13-14-5-6-18(28-2)17(9-14)22-12-21(23)24;/h5-11,22H,12-13H2,1-4H3,(H,23,24);/q;+1/p-1/b8-7+;
